US07166648B2
4-acetyl-5-oxohexanoic acid methyl ester was prepared through the Michael addition of methyl acrylate to acetyl acetone in the presence of metallic sodium. The crude product was purified by vacuum distillation and received in a purity of approximately 99%.

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | acetyl acetone | C(C)(=O)CC(C)=O | C5H8O2
reactant | sodium | [Na] | Na
product | 4-acetyl-5-oxohexanoic acid methyl ester | COC(CCC(C(C)=O)C(C)=O)=O | C9H14O4
